US08293923B2
Step 2: {1-Cyclohexyl-2-[5-(3-methoxymethyl-phenyl)-1H-indazol-3-ylamino]-1H-benzoimidazol-5-yl}-methanol
In a 20 mL vial with septum cover was added {1-cyclohexyl-2-[5-(3-methoxymethyl-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazol-3-ylamino]-1H-benzoimidazol-5-yl}-methanol (58 mg, 0.000095 mol), ethanol (6.0 mL) and HCl (2.0 mL, 0.065 M). The mixture was refluxed for 1.5 hr. The mixture was concentrated and the residue dissolved in approx 1.5 mL of DMSO and purified by HPLC. The product fractions were lyopholized overnight to give 11.9 mg of the title compound as an off white solid.

reactant | {1-cyclohexyl-2-[5-(3-methoxymethyl-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazol-3-ylamino]-1H-benzoimidazol-5-yl}-methanol | 0.000095 mol, 58 mg | C1(CCCCC1)N1C(=NC2=C1C=CC(=C2)CO)NC2=NN(C1=CC=C(C=C21)C2=CC(=CC=C2)COC)COCC[Si](C)(C)C | C35H45N5O3Si
reactant | HCl | 0.065 M, 2.0 mL | Cl | ClH
solvent | ethanol | 6.0 mL | C(C)O | C2H6O
product | {1-Cyclohexyl-2-[5-(3-methoxymethyl-phenyl)-1H-indazol-3-ylamino]-1H-benzoimidazol-5-yl}-methanol | 11.9 mg | C1(CCCCC1)N1C(=NC2=C1C=CC(=C2)CO)NC2=NNC1=CC=C(C=C21)C2=CC(=CC=C2)COC | C29H31N5O2
